US05872137
To a solution of 0.17 g of 4-(3-fluorophenyl)-3-buten-1-ol, 0.30 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol and 0.27 g of triphenylphosphine dissolved in 10 ml of tetrahydrofuran was added dropwise a solution of 0.20 ml of N,N-diisopropylazodicarboxylate dissolved in 5 ml of tetrahydrofuran, while stirring at room temperature. After the stirring was continued at room temperature for 24 hours, the reaction mixture was concentrated to obtain a residue. The residue was subjected to silica gel chromatography, which afforded 0.38 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-fluorophenyl)-3-butenyloxy)benzene (84% yield), nD25.5 1.5857.

reactant | 4-(3-fluorophenyl)-3-buten-1-ol | 0.17 g | FC=1C=C(C=CC1)C=CCCO | C10H11FO
reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 0.30 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | triphenylphosphine | 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(3-fluorophenyl)-3-butenyloxy)benzene | 0.38 g, 84% yield | ClC=1C=C(C=C(C1OCCC=CC1=CC(=CC=C1)F)Cl)OCC=C(Cl)Cl | C19H15Cl4FO2
